US07037932B2
c) 6-Methoxy-1-benzothiophene-2-carbonitrile
(Ref: Gallagher, T; Pardoe, D. A.; Porter, R.; Tetrahedron Lett.; 2000, 41(28), 5415–5418.) To a solution of S-(2-formyl-5-methoxyphenyl) dimethylthiocarbamate (1.08 g, 4.5 mmol) in water (4 mL) and methanol (8 mL) was added sodium hydroxide (199 mg, 4.9 mmol), this was heated to reflux for 16 hours. The reaction was cooled to room temperature and chloroacetonitrile (0.28 mL, 4.5 mmol) was added in one portion and the mixture the stirred at room temperature for 1 hour. The methanol was removed in vacuo, and water (10 mL) added. The aqueous layer was extracted with diethyl ether (3×20 mL), dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography with a gradient of 0–30% ethyl acetate in iso-hexane to give the title compound as a colourless solid (390 mg, 46%); δH (300 MHz, CDCl3) 7.80–7.70 (1H, m, ArH), 7.29 (2H, m, ArH), 7.11–7.01 (1H, m, ArH) and 3.85 (3H, s, OCH3). M+23=212.0. νmax/cm−1 [film] 2213.50 (m).

reactant | S-(2-formyl-5-methoxyphenyl) dimethylthiocarbamate | 4.5 mmol, 1.08 g | CN(C(SC1=C(C=CC(=C1)OC)C=O)=O)C | C11H13NO3S
reactant | sodium hydroxide | 4.9 mmol, 199 mg | [OH-].[Na+]
reactant | chloroacetonitrile | 4.5 mmol, 0.28 mL | ClCC#N | C2H2ClN
solvent | water | 4 mL | O | H2O
solvent | methanol | 8 mL | CO | CH4O
product | 6-Methoxy-1-benzothiophene-2-carbonitrile | 390 mg, 46% | COC1=CC2=C(C=C(S2)C#N)C=C1 | C10H7NOS
